** sch_path: /foss/designs/Analog_FA23_SP24/DeltaSigma/xschem/DS_2024_2p2.sch
.lib /foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include /foss/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice

.subckt DS_2024_2p2

V1 VDD GND 1.8
V2 VMID GND 0.9
V3 CLK GND pulse 0 1.8 '0.495/ 1.2e6 ' '0.01/1.2e6 ' '0.01/1.2e6 ' '0.49/1.2e6 ' '1/1.2e6 '
V4 SIG GND sin(0.9 0.2 5e3)
V5 VREFN GND 0.4
V6 VREFP GND 1.4
x1 VDD VMID net1 INTOUT1 GND C2S2_Amp_F_I
x2 VDD VMID net2 INTOUT2 GND C2S2_Amp_F_I
x5 VREFP VDD net3 OUT GND VREFN 1Bit_DAC_Inv
x4 VREFP VDD DACOUT OUT GND VREFN 1Bit_DAC
x3 VDD INTOUT2 OUT CLK GND VMID 1Bit_Clk_ADC
XR5 net1 SIG GND sky130_fd_pr__res_xhigh_po_5p73 L=286.5 mult=1 m=1
XR1 net2 INTOUT1 GND sky130_fd_pr__res_xhigh_po_5p73 L=286.5 mult=1 m=1
XR2 net1 net3 GND sky130_fd_pr__res_xhigh_po_5p73 L=286.5 mult=1 m=1
XR3 net2 DACOUT GND sky130_fd_pr__res_xhigh_po_5p73 L=286.5 mult=1 m=1
XC3 net2 INTOUT2 sky130_fd_pr__cap_mim_m3_1 W=15.7 L=15.7 m=12
XC1 net1 INTOUT1 sky130_fd_pr__cap_mim_m3_1 W=15.7 L=15.7 m=12
**** begin user architecture code


.control
save all

tran 0.1u 500u
*ac dec 10 100 100k

write DS_2024_rev2.raw
.endc


**** end user architecture code
.ends

* expanding   symbol:  /foss/designs/Analog_FA23_SP24/DeltaSigma/xschem/C2S2_Amp_F_I.sym # of pins=5
** sym_path: /foss/designs/Analog_FA23_SP24/DeltaSigma/xschem/C2S2_Amp_F_I.sym
** sch_path: /foss/designs/Analog_FA23_SP24/DeltaSigma/xschem/C2S2_Amp_F_I.sch
.subckt C2S2_Amp_F_I VDD VP VN OUT VSS
*.PININFO VN:I VDD:I VSS:I VP:I OUT:O
XM28 net1 net4 VSS VSS sky130_fd_pr__nfet_01v8 L=1 W=70 nf=14 m=1
XM29 net2 VN net1 VSS sky130_fd_pr__nfet_01v8 L=0.5 W=35 nf=7 m=1
XM30 net3 VP net1 VSS sky130_fd_pr__nfet_01v8 L=0.5 W=35 nf=7 m=1
XM31 net2 net2 VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=105 nf=21 m=1
XM32 net3 net2 VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=105 nf=21 m=1
XM38 OUT net3 VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=200 nf=40 m=1
XM39 OUT net4 VSS VSS sky130_fd_pr__nfet_01v8 L=1 W=60 nf=12 m=1
XC2 OUT net5 sky130_fd_pr__cap_mim_m3_1 W=16 L=16 m=4
XR6 net5 net3 VSS sky130_fd_pr__res_xhigh_po_5p73 L=10 mult=4 m=4
XM40 net4 net6 VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=30 nf=6 m=1
XM41 net6 net6 VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=30 nf=6 m=1
XM42 net6 net4 net7 VSS sky130_fd_pr__nfet_01v8 L=1 W=30 nf=6 m=1
XM43 net4 net4 VSS VSS sky130_fd_pr__nfet_01v8 L=1 W=5 nf=4 m=1
XM44 net6 net6 net4 VSS sky130_fd_pr__nfet_01v8 L=0.5 W=5 nf=2 m=1
XR8 VSS net7 VSS sky130_fd_pr__res_xhigh_po_5p73 L=69 mult=4 m=4
.ends


* expanding   symbol:  /foss/designs/Analog_FA23_SP24/DeltaSigma/xschem/1Bit_DAC_Inv.sym # of pins=6
** sym_path: /foss/designs/Analog_FA23_SP24/DeltaSigma/xschem/1Bit_DAC_Inv.sym
** sch_path: /foss/designs/Analog_FA23_SP24/DeltaSigma/xschem/1Bit_DAC_Inv.sch
.subckt 1Bit_DAC_Inv VREF_P VDD OUT VIN VSS VREF_N
*.PININFO VREF_P:B VREF_N:B VSS:B VDD:B VIN:I OUT:O
XM1 VREF_N net1 OUT VDD sky130_fd_pr__pfet_01v8 L=0.15 W=95 nf=19 m=1
XM2 VREF_N VIN OUT VSS sky130_fd_pr__nfet_01v8 L=0.15 W=45 nf=9 m=1
XM3 VREF_P VIN OUT VDD sky130_fd_pr__pfet_01v8 L=0.15 W=95 nf=19 m=1
XM4 VREF_P net1 OUT VSS sky130_fd_pr__nfet_01v8 L=0.15 W=45 nf=9 m=1
XM8 net1 VIN VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=20 nf=4 m=1
XM5 net1 VIN VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=2 m=1
.ends


* expanding   symbol:  /foss/designs/Analog_FA23_SP24/DeltaSigma/xschem/1Bit_DAC.sym # of pins=6
** sym_path: /foss/designs/Analog_FA23_SP24/DeltaSigma/xschem/1Bit_DAC.sym
** sch_path: /foss/designs/Analog_FA23_SP24/DeltaSigma/xschem/1Bit_DAC.sch
.subckt 1Bit_DAC VREF_P VDD OUT VIN VSS VREF_N
*.PININFO VREF_P:B VREF_N:B VSS:B VDD:B VIN:I OUT:O
XM1 VREF_N VIN OUT VDD sky130_fd_pr__pfet_01v8 L=0.15 W=95 nf=19 m=1
XM2 VREF_N net1 OUT VSS sky130_fd_pr__nfet_01v8 L=0.15 W=45 nf=9 m=1
XM3 VREF_P net1 OUT VDD sky130_fd_pr__pfet_01v8 L=0.15 W=95 nf=19 m=1
XM4 VREF_P VIN OUT VSS sky130_fd_pr__nfet_01v8 L=0.15 W=45 nf=9 m=1
XM8 net1 VIN VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=20 nf=4 m=1
XM5 net1 VIN VSS VSS sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=2 m=1
.ends


* expanding   symbol:  /foss/designs/Analog_FA23_SP24/DeltaSigma/xschem/1Bit_Clk_ADC.sym # of pins=6
** sym_path: /foss/designs/Analog_FA23_SP24/DeltaSigma/xschem/1Bit_Clk_ADC.sym
** sch_path: /foss/designs/Analog_FA23_SP24/DeltaSigma/xschem/1Bit_Clk_ADC.sch
.subckt 1Bit_Clk_ADC VDD SIG OUT CLK VSS VMID
*.PININFO SIG:I VDD:I VSS:I CLK:I OUT:O VMID:I
x3 net4 net1 VSS VSS VDD VDD net2 sky130_fd_sc_hd__nand2_4
x4 net2 net3 VSS VSS VDD VDD net1 sky130_fd_sc_hd__nand2_4
x5 net5 CLK VSS VSS VDD VDD net4 sky130_fd_sc_hd__nand2_4
x6 CLK COMP VSS VSS VDD VDD net3 sky130_fd_sc_hd__nand2_4
x8 COMP VSS VSS VDD VDD net5 sky130_fd_sc_hd__inv_4
x9 net8 net6 VSS VSS VDD VDD OUT sky130_fd_sc_hd__nand2_4
x10 OUT net7 VSS VSS VDD VDD net6 sky130_fd_sc_hd__nand2_4
x11 net10 net9 VSS VSS VDD VDD net8 sky130_fd_sc_hd__nand2_4
x12 net9 net1 VSS VSS VDD VDD net7 sky130_fd_sc_hd__nand2_4
x14 CLK VSS VSS VDD VDD net9 sky130_fd_sc_hd__clkinv_1
x13 net1 VSS VSS VDD VDD net10 sky130_fd_sc_hd__inv_4
x1 VDD VMID SIG COMP VSS C2S2_Amp_F
.ends


* expanding   symbol:  /foss/designs/Analog_FA23_SP24/DeltaSigma/xschem/C2S2_Amp_F.sym # of pins=5
** sym_path: /foss/designs/Analog_FA23_SP24/DeltaSigma/xschem/C2S2_Amp_F.sym
** sch_path: /foss/designs/Analog_FA23_SP24/DeltaSigma/xschem/C2S2_Amp_F.sch
.subckt C2S2_Amp_F VDD VP VN OUT VSS
*.PININFO VN:I VDD:I VSS:I VP:I OUT:O
XM28 net1 net4 VSS VSS sky130_fd_pr__nfet_01v8 L=1 W=70 nf=14 m=1
XM29 net2 VN net1 VSS sky130_fd_pr__nfet_01v8 L=0.5 W=35 nf=7 m=1
XM30 net3 VP net1 VSS sky130_fd_pr__nfet_01v8 L=0.5 W=35 nf=7 m=1
XM31 net2 net2 VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=105 nf=21 m=1
XM32 net3 net2 VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=105 nf=21 m=1
XM38 OUT net3 VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=200 nf=40 m=1
XM39 OUT net4 VSS VSS sky130_fd_pr__nfet_01v8 L=1 W=60 nf=12 m=1
XC2 OUT net5 sky130_fd_pr__cap_mim_m3_1 W=16 L=16 m=4
XR6 net5 net3 VSS sky130_fd_pr__res_xhigh_po_5p73 L=10 mult=4 m=4
XM40 net4 net6 VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=30 nf=6 m=1
XM41 net6 net6 VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=30 nf=6 m=1
XM42 net6 net4 net7 VSS sky130_fd_pr__nfet_01v8 L=1 W=30 nf=6 m=1
XM43 net4 net4 VSS VSS sky130_fd_pr__nfet_01v8 L=1 W=5 nf=4 m=1
XM44 net6 net6 net4 VSS sky130_fd_pr__nfet_01v8 L=0.5 W=5 nf=2 m=1
XR8 VSS net7 VSS sky130_fd_pr__res_xhigh_po_5p73 L=69 mult=4 m=4
.ends

.GLOBAL VDD
.GLOBAL GND
.GLOBAL VMID
.GLOBAL VREFN
.GLOBAL VREFP
.end
